US07304062B2
1-[4-[4-(1-Carboxy-1-methylethoxy)phenyl]butyryl]-2-(3,4-dichlorophenylmethyl)-4-(propyl)semicarbazide
To substrate 1-[4-[4-(1-Ethoxycarbonyl-1-methylethoxy)-phenyl]butyryl]-2-(3,4-dichlorophenylmethyl)-4-(propyl)semicarbazide (0.609 g, 1.10 mmol) in methanol (5 mL) at rt was added 1 N NaOH (2.0 mL, 2.0 mmol) and the resulting solution stirred for 16 h. The solution was then concentrated to an oil, and partitioned between ethyl acetate and 1 N HCl. The organic phase was then washed with sat'd aq. NaCl, dried (MgSO4), filtered and concentrated to afford the title compound as an amorphous solid (0.5563 g, 1.06 mmol, 96%): 1H NMR (DMSO-d6, 60° C.) δ 9.61 (s, 1 H), 7.50 (d, 1 H, J=8 Hz), 7.47 (d, 1 H, J=1.5 Hz), 7.23 (dd, 1 H, J=8, 1.5 Hz), 7.01 (d, 2 H, J=8.5 Hz), 6.75 d, 2 H, J=8.5 Hz), 6.40 (br m, 1 H), 4.53 (br s, 2 H), 2.99 (q, 2 H, J=6.5 Hz), 2.46 (t, 2 H, J=7.5 Hz), 2.09 (t, 2 H, J=7.5 Hz), 1.74 (m, 2 H), 1.47 (s, 6 H), 1.40 (q, 2 H, J=7.5 Hz), 0.81 (t, 3 H, J=7.5 Hz); 13C NMR (DMSO-d6) δ 175.8, 172.1, 158.1, 154.1, 140.4, 135.3, 131.5, 130.9, 130.6, 130.1, 129.6, 129.1, 119.1, 78.9, 50.9, 42.3, 40.7, 34.4, 33.5, 27.1, 25.7, 23.7, 11.9; IR (CHCl3) 3379, 3291, 2960, 2915, 1719, 1671, 1618, 1542, 1508 cm−1; Anal. Calcd. for C25H31Cl2N3O5: C, 57.26; H, 5.96; N, 8.01. Found: C, 57.15; H, 5.89; N, 7.94.

reactant | 1-[4-[4-(1-Ethoxycarbonyl-1-methylethoxy)-phenyl]butyryl]-2-(3,4-dichlorophenylmethyl)-4-(propyl)semicarbazide | 1.10 mmol, 0.609 g | C(C)OC(=O)C(C)(OC1=CC=C(C=C1)CCCC(=O)NN(C(=O)NCCC)CC1=CC(=C(C=C1)Cl)Cl)C | C27H35Cl2N3O5
reactant | NaOH | 2.0 mmol, 1 N, 2.0 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 1-[4-[4-(1-Carboxy-1-methylethoxy)phenyl]butyryl]-2-(3,4-dichlorophenylmethyl)-4-(propyl)semicarbazide | 1.06 mmol, 0.5563 g, 96% | C(=O)(O)C(C)(OC1=CC=C(C=C1)CCCC(=O)NN(C(=O)NCCC)CC1=CC(=C(C=C1)Cl)Cl)C | C25H31Cl2N3O5
